US06911457B2
To a solution of glimepiride in dry toluene was added dropwise polytetrafluoroethyleneoxide-co-difluoromethyleneoxide-α,ω-diisocyanate (Mw ˜2,000, 0.2 equivalents) at ambient temperature. The reaction mixture was stirred for 2 hours, concentrated and then added to acetone. The resulting white solid was washed with ether and dried, yielding perfluoropolymer-labeled 3-ethyl-2,5-dihydro-4-methyl-N-[2{4-[[[(trans-4-methylcyclohexyl)amino]carbonyl]amino]sulfonyl]phenyl]ethyl]-2-oxo-1H-pyrrole-1-carboxamide.

reactant | glimepiride | CCC1=C(CN(C1=O)C(=O)NCCC2=CC=C(C=C2)S(=O)(=O)NC(=O)N[C@H]3CC[C@@H](CC3)C)C | C24H34N4O5S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-oxo-1H-pyrrole-1-carboxamide | O=C1N(C=CC1)C(=O)N | C5H6N2O2
